US06696595B2
70 g of 2-ethyl-2-adamantanol was dissolved in toluene, 1 g of p-toluenesulfonic acid was added, and water was removed by distillation by use of a Dean and Stark dehydrator under heating so as to obtain 2-ethylideneadamantane. To 50 g of the obtained 2-ethylideneadamantane, 500 g of methacrylic acid and 0.1 ml of concentrated sulphuric acid were added, and the resulting mixture was heated at 80° C. for 5 hours. After hexane was added to the obtained reaction mixture, the mixture was washed with water, a 5% sodium hydroxide solution, and water in turn, and it was confirmed that the pH of an aqueous phase became 8. After the washed organic phase was concentrated, unreacted 2-ethylideneadamantane was partially removed by sublimation so as to obtain crude 2-ethyl-2-adamantyl methacrylate containing 80% by weight of 2-ethyl-2-adamantyl methacrylate.

reactant | 2-ethylideneadamantane | 50 g | C(C)=C1C2CC3CC(CC1C3)C2 | C12H18
reactant | methacrylic acid | 500 g | C(C(=C)C)(=O)O | C4H6O2
reactant | sulphuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
solvent | hexane | CCCCCC | C6H14
product | 2-ethyl-2-adamantyl methacrylate | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)CC | C16H24O2
